US08710043B2
Step 2. Ethyl 6-chloro-5-hydroxynicotinate
To a stirred mixture of ethyl 5-hydroxynicotinate (20 g, 0.119 mol, in DMF (200.0 mL) was added NCS (19.18 g, 0.143 mol, Aldrich). The reaction mixture was stirred for 2 h at 80° C. After completion of the reaction (monitored by TLC, 30% EtOAc in hexane), the reaction mixture was quenched with sat'd NaHCO3 solution (50 mL) and extracted with EtOAc (500 mL×3). The combined organic layers were dried over anhydrous sodium sulfate, and purified by column chromatography, silica gel (100-200 mesh), using 10-15% EtOAc in petroleum ether as the eluent to give the title compound as a solid. 1H NMR (400 MHz, CDCl3) δ: 8.61 (d, J=2.1 Hz, 1H), 7.92 (d, J=1.8 Hz, 1H), 5.94 (br. s., 1H), 4.53 (q, J=6.9 Hz, 2H), 1.43 (t, J=7.2 Hz, 3H). MS (ESI, positive ion) m/z: 202.1 (M+H).

reactant | ethyl 5-hydroxynicotinate | OC=1C=NC=C(C(=O)OCC)C1 | C8H9NO3
reactant | NCS | 0.143 mol, 19.18 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 200.0 mL | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | Ethyl 6-chloro-5-hydroxynicotinate | ClC1=NC=C(C(=O)OCC)C=C1O | C8H8ClNO3
